US08258141B2
VB1: 1-((R)-1-Benzyl-pyrrolidin-3-yl)-3-pyridin-3-yl-urea
A solution of pyridin-3-yl-carbamic acid phenyl ester (1.6 g) in dry THF (20 ml) is treated with (R)-1-benzyl-pyrrolidin-3-ylamine (1.9 g, 1.05 eq) and then heated using microwave radiation at 110° C. for 1000 s. The solvent is removed in vacuo and purification of the crude product by chromatography on silica eluting with DCM followed by EtOAc and EtOH affords the title compound as an oil. (MH+ 297).

reactant | pyridin-3-yl-carbamic acid phenyl ester | 1.6 g | C1(=CC=CC=C1)OC(NC=1C=NC=CC1)=O | C12H10N2O2
reactant | (R)-1-benzyl-pyrrolidin-3-ylamine | 1.9 g, 1.05 eq | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-((R)-1-Benzyl-pyrrolidin-3-yl)-3-pyridin-3-yl-urea | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC(=O)NC=1C=NC=CC1 | C17H20N4O
